US08835631B2
(1) Synthesis of 6-cyanonicotinic acid methyl ester
6-Cyanonicotinic acid (500 mg) was dissolved in dichloromethane (25 ml), water-soluble carbodiimide (776 mg), methanol (0.164 ml) and 4-dimethylaminopyridine (49 mg) were added thereto, and the mixture was stirred for 2 hr 10 min. The reaction mixture was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated, and the obtained residue was purified by column chromatography (Yamazen HI-FLASH™ COLUMN size 2 L, elution solvent: hexane/ethyl acetate) to give the title compound. The same reactions were repeated using 6-cyanonicotinic acid (547 mg) to give the title compound (total 951 mg).

reactant | 6-Cyanonicotinic acid | 500 mg | C(#N)C1=NC=C(C(=O)O)C=C1 | C7H4N2O2
reactant | water | 776 mg | O | H2O
reactant | methanol | 0.164 ml | CO | CH4O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 49 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-cyanonicotinic acid methyl ester | COC(C1=CN=C(C=C1)C#N)=O | C8H6N2O2
